US08835462B2
To a solution of tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo−1,5-dioxonan-3-yl)carbamate (280 mg, 0.738 mmol, 1.00 equiv) in CH2Cl2 (7.4 mL) were added methyl propiolate (0.098 mL, 1.11 mmol, 1.50 equiv) and DABCO (4 mg, 0.04 mmol, 0.05 equiv). This solution was stirred at room temperature for 1 h, concentrated, and purified by automated silica gel column chromatography (5-25% acetone in hexanes) to provide (E)-methyl 3-(((3S,6S,7R,8S)-8-benzyl-3-((tert-butoxycarbonyl)amino)-6-methyl-4-oxo-1,5-dioxonan-7-yl)oxy)acrylate (312 mg, 91%) as a white solid: mp slow melt from 50-80° C., recrystallized at 98° C., remelt at 128-129° C.; IR (neat film) 3342, 2980, 2949, 1753, 1703, 1639, 1497, 1329, 1132, 910, 731 cm−1; 1H NMR (400 MHz, CDCl3) δ 7.48 (d, J=12.2 Hz, 1H), 7.32-7.27 (m, 2H), 7.23-7.18 (m, 1H), 7.15-7.11 (m, 2H), 5.40 (d, J=12.2 Hz, 1H), 5.10 (d, J=8.3 Hz, 1H), 5.02 (dd, J=9.3, 6.4 Hz, 1H), 4.64 (dd, J=15.3, 7.5 Hz, 1H), 3.92 (dd, J=11.6, 7.6 Hz, 1H), 3.74 (d, J=9.1 Hz, 1H), 3.71 (s, 3H), 3.51 (d, J=11.1 Hz, 1H), 3.43 (dd, J=10.5, 6.4 Hz, 1H), 3.29 (dd, J=11.3, 7.5 Hz, 1H), 2.92 (dd, J=13.8, 3.5 Hz, 1H), 2.34 (t, J=12.5 Hz, 1H), 2.06 (s, 1H), 1.42 (s, 9H), 1.41 (d, J=6.5 Hz, 3H); 13C NMR (100 MHz, CDCl3) δ 172.16, 167.97, 162.94, 154.91, 138.54, 129.09, 128.57, 126.48, 98.50, 89.01, 80.31, 73.94, 72.57, 71.33, 52.70, 51.26, 46.47, 35.18, 28.25, 18.73; HRMS-ESI (m/z) [M+Na]+ calc'd for C24H33NO8Na, 486.2098. found, 486.2104.

reactant | tert-butyl ((3S,7S,8R,9S)-7-benzyl-8-hydroxy-9-methyl-2-oxo−1,5-dioxonan-3-yl)carbamate | 0.738 mmol, 280 mg, 1.00 equiv | C(C1=CC=CC=C1)[C@H]1COC[C@@H](C(O[C@H]([C@@H]1O)C)=O)NC(OC(C)(C)C)=O | C20H29NO6
reactant | methyl propiolate | 1.11 mmol, 0.098 mL, 1.50 equiv | C(C#C)(=O)OC | C4H4O2
solvent | CH2Cl2 | 7.4 mL | C(Cl)Cl | CH2Cl2
catalyst | DABCO | 0.04 mmol, 4 mg, 0.05 equiv | C1CN2CCN1CC2 | C6H12N2
product | (E)-methyl 3-(((3S,6S,7R,8S)-8-benzyl-3-((tert-butoxycarbonyl)amino)-6-methyl-4-oxo-1,5-dioxonan-7-yl)oxy)acrylate | 312 mg, 91% | C(C1=CC=CC=C1)[C@@H]1[C@H]([C@@H](OC([C@H](COC1)NC(=O)OC(C)(C)C)=O)C)O/C=C/C(=O)OC | C24H33NO8
